US05041641
To this was added 2.47 g of (R)-(-)-2-chloro-1-(pentafluorophenyl)ethanol obtained in the method of Example 8, and was stirred for one hour at 60° C. to allow reaction to take place. After addition of 20 mg of AIBN, the reaction mixture was further stirred for three hours at 60° C. The subsequent distillation under reduced pressure gave 0.30 g of (S)-(-)-1-(pentafluorophenyl)ethanol.

reactant | (R)-(-)-2-chloro-1-(pentafluorophenyl)ethanol | 2.47 g | ClC[C@H](O)C1=C(C(=C(C(=C1F)F)F)F)F | C8H4ClF5O
reactant | AIBN | 20 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | (S)-(-)-1-(pentafluorophenyl)ethanol | 0.30 g | FC1=C(C(=C(C(=C1[C@H](C)O)F)F)F)F | C8H5F5O
